US07820649B2
To a solution of 3-chlorobenzonitrile (50 g, 363 mmol) in anhydrous ethanol (500 mL), cooled to 0° C. in an ice bath, was bubbled HCl (g) through a gas dispersion tube for approximately 20 minutes until the solution was saturated. The resulting reaction mixture was stirred at room temperature for 16 h. Volatiles were removed in vacuo and the residue was triturated with anhydrous ether (˜200 mL). The white solid was collected by filtration and dried in vacuo overnight to afford ethyl 3-chlorobenzimidate hydrochloride (INTERMEDIATE II.1) (80 g, 363 mmol, 100%) which was used directly without further purification.

reactant | 3-chlorobenzonitrile | 363 mmol, 50 g | ClC=1C=C(C#N)C=CC1 | C7H4ClN
reactant | ethanol | 500 mL | C(C)O | C2H6O
product | ethyl 3-chlorobenzimidate hydrochloride | 363 mmol, 80 g, 100% | Cl.ClC=1C=C(C(OCC)=N)C=CC1 | InChI=1S/C9H10ClNO.ClH/c1-2-12-9(11)7-4-3-5-8(10)6-7;/h3-6,11H,2H2,1H3;1H
